;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/cadence/cellcharacs/model18.spi"
include "~/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

acinput (IV_in 0) vsource dc=0 mag=1

R1 (IV_in IV_in1) resistor r=0

X1 (IV_in1 vdd nand2_out vdd gnd) NAND2 wp=700n lp=200n wn=300n ln=200n

Freq ac start=1e+1 stop=1e+9
save R1:currents